US05744426
4-Chloro-3-(4-chlorophenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole
A solution of 74.0 g (0,549 mol) of sulfuryl chloride in 200 ml of carbon tetrachloride was added slowly to a solution of 128.9 g (0.5 mol) of 3-(4-chlorophenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole in 500 ml of carbon tetrachloride. After the exothermic reaction with evolution of gas had subsided, the reaction mixture was stirred at 20°-25° C.for 2 hours more. The reaction solution was then washed with water, saturated sodium hydrogen carbonate solution and saturated sodium chloridesolution, and finally dried and concentrated. Yield: 139.3 g; 1H-NMR (270 MHz, in CDCl3): δ [ppm]=7,79 (d,2H), 7,43 (d,2H), 6,70 (t,1H), 3,85 (s,3H).

reactant | sulfuryl chloride | 0,549 mol, 74.0 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 3-(4-chlorophenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | 0.5 mol, 128.9 g | ClC1=CC=C(C=C1)C1=NN(C(=C1)OC(F)F)C | C11H9ClF2N2O
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 500 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Chloro-3-(4-chlorophenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | ClC=1C(=NN(C1OC(F)F)C)C1=CC=C(C=C1)Cl | C11H8Cl2F2N2O
